US07378409B2
Tert-butyl (1R,3R,4S)-3-acetyl-4-aminocyclohexylcarbamate (500 mg) dissolved in DMF (2 mL) prior to the addition of 2-(3-(trifluoromethyl)benzamido)acetic acid (626 mg), 4-methylmorpholine (1.1 mL), and BOP (1.3 g). The reaction was stirred for 12 h at rt and then partitioned between EtOAc and 1N HCl solution. The organic phases were combined, washed with saturated NaHCO3 and brine, dried (MgSO4), filtered, and concentrated in vacuo. The residue was purified by flash chromatography to afford tert-butyl (1R,3R,4S)-3-acetyl-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate (430 mg). MS found: (M+H)+=486.2.

reactant | Tert-butyl (1R,3R,4S)-3-acetyl-4-aminocyclohexylcarbamate | 500 mg | C(C)(=O)[C@@H]1C[C@@H](CC[C@@H]1N)NC(OC(C)(C)C)=O | C13H24N2O3
reactant | 2-(3-(trifluoromethyl)benzamido)acetic acid | 626 mg | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | 4-methylmorpholine | 1.1 mL | CN1CCOCC1 | C5H11NO
reactant | BOP | 1.3 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | tert-butyl (1R,3R,4S)-3-acetyl-4-(2-(3-(trifluoromethyl)benzamido)acetamido)cyclohexylcarbamate | 430 mg | C(C)(=O)[C@@H]1C[C@@H](CC[C@@H]1NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O)NC(OC(C)(C)C)=O | C23H30F3N3O5
